US06180627B2
N-[(3-Methyl-1H-indol-5-yl)methyl]-2-[6-methyl-3-({3-[(methylamino)methyl]phenethyl}amino)-2-oxo-1(2H)-pyrazinyl]acetamide
2,2,2-Trifluoro-N-methyl-N-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)benzyl]acetamide (preparation 38) (40 mg, 0.07 mmol) was dissolved in hot methanol (15 ml) and treated with an aq. solution of Na2CO3 (0.6 ml, 0.46 mol) followed by an additional portion of water (1.5 ml). The resultant cloudy mixture was stirred at room temperature for 18 hr, then evaporated to dryness and dried. The resultant white solid was purified by chromatography (SiO2, gradient elution with 90:10 CH2Cl2:MeOH; 90:10:1 CH2Cl2:MeOH:NH3) to give the desired product (34 mg, 100%). 1H NMR (CDCl3) δ 2.15 (s, 3H), 2.30 (s, 3H), 2.50 (s, 3H), 2.90 (t, 2H), 3.60 (t, 2H), 3.90 (s, 2H), 4.50 (s, 2H), 4.75 (s, 2H), 6.70 (s, 1H), 7.00 (s, 1H), 7.05 (d, 1H), 7.20-7.40 (m, 5H), 7.45 (s, 1H). LRMS m/z=473.4 (M+1)+.

reactant | 2,2,2-Trifluoro-N-methyl-N-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)benzyl]acetamide | 0.07 mmol, 40 mg | FC(C(=O)N(CC1=CC(=CC=C1)CCNC1=NC=C(N(C1=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C)C)C)(F)F | C29H31F3N6O3
reactant | Na2CO3 | 0.46 mol, 0.6 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1.5 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | N-[(3-Methyl-1H-indol-5-yl)methyl]-2-[6-methyl-3-({3-[(methylamino)methyl]phenethyl}amino)-2-oxo-1(2H)-pyrazinyl]acetamide | 34 mg, 100% | CC1=CNC2=CC=C(C=C12)CNC(CN1C(C(=NC=C1C)NCCC1=CC(=CC=C1)CNC)=O)=O | C27H32N6O2
